US09290451B2
b) (S)-tert-Butyl 1-amino-4-methyl-1-oxopentan-2-ylcarbamate
A mixture of (S)-2-(tert-butoxycarbonylamino)-4-methylpentanoic acid (1.8 g), di-tert-butyl dicarbonate (CAN:24424-99-5, 12 mmol) and pyridine (3 mL) in CH3CN (50 mL) was stirred at room temperature for 20 min. Ammonium hydroxide solution (25%-28% NH3, 15 mL) was added dropwise during 30 min. The resulting reaction mixture was stirred overnight. During the removal of solvents, the product precipitated, was collected by filtration and dried to give the target compound as a white solid (1.55 g, 86%). MS (D): m/e=253.2 [M+Na]+.

reactant | (S)-2-(tert-butoxycarbonylamino)-4-methylpentanoic acid | 1.8 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC(C)C | C11H21NO4
reactant | di-tert-butyl dicarbonate | 12 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | Ammonium hydroxide | 15 mL | [OH-].[NH4+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | (S)-tert-Butyl 1-amino-4-methyl-1-oxopentan-2-ylcarbamate | 1.55 g, 86% | NC([C@H](CC(C)C)NC(OC(C)(C)C)=O)=O | C11H22N2O3
